US07960395B2
c) (2R)-2-{2-Chloro-5-[2-chloro-7-((1R)-1-hydroxymethyl-3-methyl-butylamino)-thiazolo[4,5-d]pyrimidin-5-yldisulfanyl]-thiazolo[4,5-d]pyrimidin-7-ylamino}-4-methyl-pentan-1-ol
Sodium nitrite (5.19 g, 75 mmol) in water (25 mL) was added dropwise at 0° C. to (2R)-2-[[2-amino-5-mercapto[1,3]thiazolo[4,5-d]pyrimidin-7-yl]amino]-4-methylpentan-1-ol (7.50 g, 25 mmol) in conc. hydrochloric acid (150 mL) and acetonitrile (150 mL). The reaction mixture was stirred for 18 h at 0-5° C., and then poured onto ice (500 mL), and extracted with ethyl acetate. Any remaining solid was filtered off. The combined organic phases were washed sequentially with Brine and saturated aqueous sodium bicarbonate solution. The organic phase was dried and evaporated and the solid previously filtered off was added to this. The total solid was slurried in ethyl acetate, which after filtration provided the title compound (6.3 g, 80% yield).

reactant | Sodium nitrite | 75 mmol, 5.19 g | N(=O)[O-].[Na+]
reactant | (2R)-2-[[2-amino-5-mercapto[1,3]thiazolo[4,5-d]pyrimidin-7-yl]amino]-4-methylpentan-1-ol | 25 mmol, 7.50 g | NC=1SC2=C(N=C(N=C2N[C@@H](CO)CC(C)C)S)N1 | C11H17N5OS2
reactant | hydrochloric acid | 150 mL | Cl | ClH
solvent | water | 25 mL | O | H2O
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | (2R)-2-{2-Chloro-5-[2-chloro-7-((1R)-1-hydroxymethyl-3-methyl-butylamino)-thiazolo[4,5-d]pyrimidin-5-yldisulfanyl]-thiazolo[4,5-d]pyrimidin-7-ylamino}-4-methyl-pentan-1-ol | 6.3 g, 80% yield | ClC=1SC2=C(N=C(N=C2N[C@@H](CO)CC(C)C)SSC=2N=C(C3=C(N2)N=C(S3)Cl)N[C@H](CC(C)C)CO)N1 | C22H28Cl2N8O2S4
